US07390923B2
N-(4-Fluoro-3-methylphenyl)-2-methylacrylamide was prepared as described in Example 1a starting from 4-fluoro-3-methylaniline and methacryloyl chloride. 1H NMR (400 MHz, DMSO-d6): 1.94 (3H, s), 2.21 (3H, s), 5.50 (1H, s), 5.78 (1H, s), 7.05-7.10 (1H, m), 7.48-7.51 (1H, m), 7.57-7.59 (1H, m), 9.75 (1H, s).

reactant | 4-fluoro-3-methylaniline | FC1=C(C=C(N)C=C1)C | C7H8FN
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
product | N-(4-Fluoro-3-methylphenyl)-2-methylacrylamide | FC1=C(C=C(C=C1)NC(C(=C)C)=O)C | C11H12FNO
